US03947584
The procedure described in Example 3 applied to 5-fluorogramine and 2-nitrobutane yielded the intermediate product 3-(2'-methyl-2'-nitrobutyl)-5-fluoro-indole. Melting point 71°-72°C. (from benzine). Catalytic reduction thereof yielded 3-(2'-methyl-2'-aminobutyl)-5-fluoro-indole; melting point of the hydrochloride salt 248°-250°C. (from isopropanol).

reactant | 5-fluorogramine | CN(C)CC1=CNC2=C1C=C(C=C2)F | C11H13FN2
reactant | 2-nitrobutane | [N+](=O)([O-])C(C)CC | C4H9NO2
product | 3-(2'-methyl-2'-nitrobutyl)-5-fluoro-indole | CC(CC1=CNC2=CC=C(C=C12)F)(CC)[N+](=O)[O-] | C13H15FN2O2
